US08497281B2
cis-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid amide
The title compound is prepared from cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid and ammonia (7 mol/L in methanol) following a procedure analogous to that described in Example 1. Yield: 58% of theory; TLC: rf=0.24 (silica gel, CH2Cl2/MeOH/32% aqueous NH3 90:10:1); Mass spectrum (ESI+): m/z=375 [M+H]+.

reactant | cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=CC=C3C(=O)O | C22H21N3O3
reactant | ammonia | 7 mol/L | N | H3N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | cis-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-10-carboxylic acid amide | Yield: 58% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=CC=C3C(=O)N | C22H22N4O2
